US04612317
n-Hexyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
(3S)-3-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (2.02 g) is dissolved in dimethylsulfoxide (10 ml), and thereto are added triethylamine (1.67 ml) and CS2 (0.72 ml), and the mixture is stirred at room temperature for 20 minutes. To the reaction mixture is added dropwise n-hexyl bromide (1.98 g), and the mixture is stirred at room temperature for 2.5 hours. The reaction mixture is poured onto ice-water and the mixture is extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried over sodium sulfate, and then distilled to remove the solvent. The residue is recrystallized from ether-n-hexane to give the title compound (2.65 g, 73.2%) as colorless needles, m.p. 102°-106° C. NMR (CDCl3, δ): 0.90 (broad, t, 3H, --(CH2)5 --CH3); Mass m/e: 362 (M+), 244 (M+ --C6H13SH); [α]D20 +130.0° (c=1.0, methanol).

reactant | (3S)-3-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 2.02 g | OC[C@H]1NCC=2NC3=CC=CC=C3C2C1 | C12H14N2O
reactant | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
reactant | CS2 | 0.72 ml | C(=S)=S | CS2
reactant | n-hexyl bromide | 1.98 g | C(CCCCC)Br | C6H13Br
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | n-Hexyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 2.65 g, 73.2% | OC[C@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCCCCCC | C19H26N2OS2
